US05968985
To a solution of guanidine hydrochloride (1.54 g) in N,N-dimethylformamide (5 ml) was added sodium methoxide (2.8 ml, 28% in methanol) under nitrogen atmosphere. After being stirred for 30 minutes at room temperature, to the reaction mixture was added a solution of 2-methyl-2-trifluoromethylsulfonylaminopropyl 3-(1H-inden-3-yl)benzoate (1.01 g) in N,N-dimethylformamide (5 ml). After being stirred for 23 hours at room temperature, the reaction mixture was poured into a mixture of ethyl acetate and water. The organic layer was successively washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (10:1). The eluted fractions containing the desired product were collected and evaporated in vacuo. The residue was dissolved in ethanol and crystallized from slight excess methanesulfonic acid. The crystalline was recrystallized from ethanol to give [3-(1H-inden-3-yl)benzoyl]guanidine methanesulfonate (0.22 g).

reactant | guanidine hydrochloride | 1.54 g | Cl.NC(=N)N
reactant | sodium methoxide | 2.8 ml | C[O-].[Na+]
reactant | 2-methyl-2-trifluoromethylsulfonylaminopropyl 3-(1H-inden-3-yl)benzoate | 1.01 g | C1C=C(C2=CC=CC=C12)C=1C=C(C(=O)OCC(C)(NS(=O)(=O)C(F)(F)F)C)C=CC1 | C21H20F3NO4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [3-(1H-inden-3-yl)benzoyl]guanidine methanesulfonate | 0.22 g | CS(=O)(=O)O.C1C=C(C2=CC=CC=C12)C=1C=C(C(=O)NC(=N)N)C=CC1 | InChI=1S/C17H15N3O.CH4O3S/c18-17(19)20-16(21)13-6-3-5-12(10-13)15-9-8-11-4-1-2-7-14(11)15;1-5(2,3)4/h1-7,9-10H,8H2,(H4,18,19,20,21);1H3,(H,2,3,4)
